US07691855B2
A 500 mL 4-necked flask with mechanical stirrer, N2 inlet and reflux condenser is charged with 9.3 g (37.2 mmol) 1-methyl-4-(3-nitro-benzyloxy)-piperidine and 150 mL of acetic acid. Under efficient stirring 13.14 g (223 mmol) of iron powder is added and the mixture heated in an oil bath. At around 90 to 100° C. an exothermic reaction starts. The heating is interrupted for about 15 min until the exothermic reaction ceases and then the mixture is re-immersed into the oil bath and heated for 1 h at 120° C. The mixture is transferred to a round-bottomed flask and the solvent removed under reduced pressure. The residue is taken up in 1N HCl and washed with ethyl acetate (3×200 mL). The aqueous phase is treated with sodium carbonate until PH 9-10. The voluminous precipitate is removed by filtration through Celite and the solid washed extensively with ethyl acetate. The aqueous filtrate and the ethyl acetate washings are separated and the aqueous phase extracted with ethyl acetate. The organic phase is washed with brine, dried with sodium sulfate and evaporated. According to the H-NMR the residue is composed of a 1:1 mixture of the desired aniline and the corresponding acetanilide. The mixture is therefore dissolved in 50 mL of ethanol and treated with 50 mL of 2N NaOH. The resulting mixture is heated 20 h under reflux. After cooling the ethanol is distilled off and the remaining aqueous phase extracted with dichloromethane (2×150 mL). The organic phases are washed with brine, dried with potassium carbonate and evaporated. 3-(1-Methyl-piperidin-4-yloxymethyl)-phenylamine is obtained as a brown viscous oil and used without further purification. HPLC: 7.54 (System X2); [M+H]+221.0.

reactant | 1-methyl-4-(3-nitro-benzyloxy)-piperidine | 37.2 mmol, 9.3 g | CN1CCC(CC1)OCC1=CC(=CC=C1)[N+](=O)[O-] | C13H18N2O3
reactant | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 223 mmol, 13.14 g | [Fe] | Fe
product | 3-(1-Methyl-piperidin-4-yloxymethyl)-phenylamine | CC(C=1C=C(C=CC1)N)OC1CCNCC1 | C13H20N2O
